US05688803
63.8 mg (0.92 mmol) of sodium nitrite were added at 0° C. to a suspension of 210 mg (0.83 mmol) of 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione in 10 ml of acetic acid and 10 ml of sulphuric acid. The reaction mixture was stirred at 0° C. for 1 hr. Subsequently, 2.49 g (16.6 mmol) of sodium iodide in 10 ml of water were added dropwise and the mixture was stirred at RT for a further 1 hr. The precipitate was filtered off, the brown crystals were suspended in 10 ml of 5% sodium thiosulphate solution, filtered off and dried in a vacuum. 145 mg (53%) of 8-iodo-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione were obtained as brownish crystals;

reactant | sodium nitrite | 0.92 mmol, 63.8 mg | N(=O)[O-].[Na+]
reactant | 8-amino-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 0.83 mmol, 210 mg | NC=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O | C9H7N5O2
reactant | sodium iodide | 16.6 mmol, 2.49 g | [I-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
product | 8-iodo-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | 145 mg, 53% | IC=1C=CC=2C=3N(C(NC2C1)=O)C(NN3)=O | C9H5IN4O2
